US07671060B2
Methyl 3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-[5-(dimethylcarbamoyl)pyrazin-2-yl]oxy-benzoate
A mixture of methyl 3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-hydroxy-benzoate (0.25 g, 0.91 mmol), 5-chloro-N,N-dimethyl-pyrazine-2-carboxamide (168 mg, 0.91 mmol) and potassium carbonate (250 mg, 1.81 mmol) in acetonitrile (5 mL) was stirred in a microwave reactor at 140° C. for 5 hours. The mixture was reduced in vacuo and ethyl acetate (50 mL) added. The mixture was washed with water (50 mL), brine (50 mL), dried (MgSO4) and reduced in vacuo. The residue was chromatographed on silica, eluting with 20 to 70% ethyl acetate in isohexane, to give the desired compound (0.3 g).

reactant | methyl 3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-hydroxy-benzoate | 0.91 mmol, 0.25 g | FC(OC[C@H](C)OC=1C=C(C(=O)OC)C=C(C1)O)F | C12H14F2O5
reactant | 5-chloro-N,N-dimethyl-pyrazine-2-carboxamide | 0.91 mmol, 168 mg | ClC=1N=CC(=NC1)C(=O)N(C)C | C7H8ClN3O
reactant | potassium carbonate | 1.81 mmol, 250 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | Methyl 3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-[5-(dimethylcarbamoyl)pyrazin-2-yl]oxy-benzoate | 0.3 g | FC(OC[C@H](C)OC=1C=C(C(=O)OC)C=C(C1)OC1=NC=C(N=C1)C(N(C)C)=O)F | C19H21F2N3O6
